* c:\users\vansh\esim-workspace\adc_130\adc_130.cir

.include avsd_opamp.sub
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
x1 vcc net-_x1-pad2_ net-_sc2-pad1_ vinp net-_u4-pad2_ gnd avsd_opamp
x6 vcc net-_x1-pad2_ net-_sc3-pad1_ vinp net-_u4-pad3_ ? avsd_opamp
x2 vcc net-_x1-pad2_ net-_sc4-pad1_ vinp net-_u4-pad4_ gnd avsd_opamp
x7 vcc net-_x1-pad2_ net-_sc5-pad1_ vinp net-_u4-pad5_ gnd avsd_opamp
x5 vcc net-_x1-pad2_ net-_sc1-pad1_ vinp net-_u4-pad1_ gnd avsd_opamp
x3 vcc net-_x1-pad2_ net-_sc6-pad1_ vinp net-_u4-pad6_ gnd avsd_opamp
x8 vcc net-_x1-pad2_ net-_sc7-pad1_ vinp net-_u4-pad7_ gnd avsd_opamp
x4 vcc net-_x1-pad2_ gnd vinp ? gnd avsd_opamp
* u4  net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ net-_u4-pad7_ ? net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ adc_bridge_8
* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ priority_encode_vanshika
* u5  net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_sc9-pad1_ net-_sc10-pad1_ net-_sc11-pad1_ dac_bridge_3
v3 vcc gnd  dc 1.8
v4 gnd net-_x1-pad2_  dc 1.8
xsc1 net-_sc1-pad1_ vref net-_sc1-pad3_ sky130_fd_pr__res_generic_pd 
xsc3 net-_sc3-pad1_ net-_sc2-pad1_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd 
xsc4 net-_sc4-pad1_ net-_sc3-pad1_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd 
xsc5 net-_sc5-pad1_ net-_sc4-pad1_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd 
xsc6 net-_sc6-pad1_ net-_sc5-pad1_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd 
xsc7 net-_sc7-pad1_ net-_sc6-pad1_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd 
xsc8 gnd net-_sc7-pad1_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd 
xsc2 net-_sc2-pad1_ net-_sc1-pad1_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd 
xsc9 net-_sc9-pad1_ out2 vcc sky130_fd_pr__res_generic_pd 
xsc10 net-_sc10-pad1_ out1 vcc sky130_fd_pr__res_generic_pd 
xsc11 net-_sc11-pad1_ out0 vcc sky130_fd_pr__res_generic_pd 
* u6  out2 plot_v1
* u7  out1 plot_v1
* u8  out0 plot_v1
v1 vref gnd  dc 0.9
v2  vinp gnd pulse(0 1.8 0.1m 200m 200m 2m 402m)
* u1  vref plot_v1
* u2  vinp plot_v1
* s c m o d e
a1 [net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ net-_u4-pad7_ ? ] [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ ] u4
a2 [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ ] [net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ ] u3
a3 [net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ ] [net-_sc9-pad1_ net-_sc10-pad1_ net-_sc11-pad1_ ] u5
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             priority_encode_vanshika, NgSpice Name: priority_encode_vanshika
.model u3 priority_encode_vanshika(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-03 3e-00 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out2)+5 v(out1)+10 v(out0)+15 
plot v(vref) v(vinp)
.endc
.end
